US08491868B2
Tert-butyl 4-(3-(fluoromethyl)phenyl)piperazine-1-carboxylate (201.3 mg, mmol) was dissolved in a 4.0 M solution of HCl and dioxane (2 mL) and stirred at room temperature. After 45 min. the reaction mixture was concentrated and re-dissolved in ACN (2 mL). Diisopropylethylamine (22 μL, 1.51 mmol) and 1H-pyrazole-1-carboximidamide (110 mg, 0.75 mmol) were added to the stirring reaction mixture. The next day, the reaction mixture was concentrated to yield a crude oil, which was purified by HPLC using a Phenomenex Luna C-18 (2) column (10 250×21.2 mm, gradient method 0-100% B over 14 min., where B=90% ACN in water using 0.1% TFA as a modifier and A=water using 0.1% TFA as a modifier) with a flow rate of 20 ml/min to isolate 4-(3-(fluoromethyl)phenyl)piperazine-1-carboximidamide as a white solid (42.7 mg, 23% isolated yield over 4 steps). 1H NMR (300 MHz, DMSO-d6): δ 7.58 (br s, 3H), 7.28 (t, 1H, J=7.8 Hz), 7.01 (br s, 1H), 6.98 (br s, 1H), 6.87 (d, 1H, J=7.3 Hz), 5.35 (d, 2H, J=47.9 Hz), 3.58 (dd, 4H, J=5.4, 4.9 Hz), 3.26 (dd, 4H, J=5.4, 4.8 Hz); 13C NMR (75.5 MHz, DMSO-d6): δ 156.1, 150.3, 137.1 (136.8), 129.2, 118.8 (118.7), 115.9, 114.9 (114.8), 84.6 (83.4), 47.2, 44.7; HRMS calcd for C12H17FN4: 237.15100 found 237.1514.

reactant | Tert-butyl 4-(3-(fluoromethyl)phenyl)piperazine-1-carboxylate | 201.3 mg | FCC=1C=C(C=CC1)N1CCN(CC1)C(=O)OC(C)(C)C | C16H23FN2O2
reactant | Diisopropylethylamine | 1.51 mmol, 22 μL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | 1H-pyrazole-1-carboximidamide | 0.75 mmol, 110 mg | N1(N=CC=C1)C(N)=N | C4H6N4
solvent | HCl | Cl | ClH
solvent | dioxane | 2 mL | O1CCOCC1 | C4H8O2
product | 4-(3-(fluoromethyl)phenyl)piperazine-1-carboximidamide | FCC=1C=C(C=CC1)N1CCN(CC1)C(N)=N | C12H17FN4
